US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl]-2-methylphenyl]-2,4-dichlorobenzamide
A mixture of 0.40 g of 10,11-dihydro-10-(3-methyl-4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 0.40 g of 2,4-dichlorobenzoyl chloride and 0.75 g of diisopropylethylamine in 50 ml of dichloromethane is stirred at room temperature for 16 hours. The mixture is washed with water, dried (MgSO4) and the solution passed through a thin pad of hydrous magnesium silicate. The filtrate is concentrated and hexane added to give crystals. Recrystallization from dichloromethane-hexane gives 0.52 g of crystals, m.p. 213°-215° C.

reactant | 10,11-dihydro-10-(3-methyl-4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.40 g | CC=1C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=CC1N | C20H19N3O
reactant | 2,4-dichlorobenzoyl chloride | 0.40 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | diisopropylethylamine | 0.75 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl]-2-methylphenyl]-2,4-dichlorobenzamide | 0.52 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC(=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O)C | C27H21Cl2N3O2
